US05380726
Analogously to Example 1, 1-{4-[N-(2-isopropoxyethyl)-N-chloroacetylamino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine hydrochloride is reacted with DL-2-mercapto-succinic acid (=DL-thiomalic acid), yielding (±)-1-{4-[N-(2-isopropoxyethyl)-N-(1,2-dicarboxyethylmercapto-acetyl)-amino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine.

reactant | 1-{4-[N-(2-isopropoxyethyl)-N-chloroacetylamino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine hydrochloride | Cl.C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1
reactant | 2-mercapto-succinic acid | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | thiomalic acid | C(C(S)CC(=O)O)(=O)O | C4H6O4S
product | (±)-1-{4-[N-(2-isopropoxyethyl)-N-(1,2-dicarboxyethylmercapto-acetyl)-amino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine | C(C)(C)OCCN(C(CSC(CC(=O)O)C(=O)O)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C30H38ClN3O7S
